US08729105B2
Preparation of 5-trifluoromethyl-isoxazol-3-methane amine
To a solution of 6.26 g 3-(azidomethyl)-5-(trifluoromethyl)isoxazole in 100 mL 2-propanol were added 9.08 mL triethyl amine and 330 uL 1,3-propanedithiol. 2.45 g sodiumhydride were added portion wise and stirred at RT for 16 h. The reaction mixture was concentrated in vacuo. The residue was poured carefully into 180 mL 10% acetic acid and washed with diethyl ether/heptane mixture 1.1 (3×50 mL) The aqueous layer was basified with conc. NaOH to pH=12 (50 mL), saturated with NaCl and extracted with CH2Cl2 (3×250 mL). The combined organic layer was dried over Na2SO4, filtered off and concentrated in vacuo to yield 3.4 g of the title compound as yellow oil; LC-MS (UV peak area/ESI) 97.6%, 167.043 (M+H)+.

reactant | 3-(azidomethyl)-5-(trifluoromethyl)isoxazole | 6.26 g | N(=[N+]=[N-])CC1=NOC(=C1)C(F)(F)F | C5H3F3N4O
reactant | triethyl amine | 9.08 mL | C(C)N(CC)CC | C6H15N
reactant | 1,3-propanedithiol | 330 uL | C(CCS)S | C3H8S2
reactant | sodiumhydride | 2.45 g | [H-].[Na+]
solvent | 2-propanol | 100 mL | CC(C)O | C3H8O
product | 5-trifluoromethyl-isoxazol-3-methane amine | 3.4 g | FC(C1=CC(=NO1)CN)(F)F | C5H5F3N2O
